datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"C=C(C)C(=O)OCC[NH+:21](CC(C)C)[H:20].CSc1nc2cc3c(cc2[n-:10]1)CCCC3>>C=C(C)C(=O)OCC[NH:21]CC(C)C.CSc1nc2cc3c(cc2[n:10]1[H:20])CCCC3 10=20;20,21=21",
"Nc1ccc(S(=O)(=O)Nc2ccc(N)[n+:21]([H:20])c2)cc1.O=C([O-])[C@H]([NH2+]CC[NH:10][C@@H](C(=O)[O-])c1ccccc1O)c1ccccc1O>>Nc1ccc(S(=O)(=O)Nc2ccc(N)[n:21]c2)cc1.O=C([O-])[C@H]([NH2+]CC[NH+:10]([C@@H](C(=O)[O-])c1ccccc1O)[H:20])c1ccccc1O 10=20;20,21=21",
"CC(C[N+:21](C)(C)[H:20])=N[O-].CCOCCn1c(CN2CCC[N:10](CCCCn3cccn3)CC2)nc2ccccc21>>CC(C[N:21](C)C)=N[O-].CCOCCn1c(CN2CCC[N+:10](CCCCn3cccn3)([H:20])CC2)nc2ccccc21 10=20;20,21=21",
"CC(=O)N1CSCC1C(=O)[O:21][H:20].c1cnc([O-:10])[nH+]c1>>CC(=O)N1CSCC1C(=O)[O-:21].c1cnc([O:10][H:20])[nH+]c1 10=20;20,21=21",
"CNc1c2ccccc2[n:10]c2cccc([N+](=O)[O-])c12.N#CC(C#N)=N[N:21](c1c(Cl)cccc1Cl)[H:20]>>CNc1c2ccccc2[n+:10]([H:20])c2cccc([N+](=O)[O-])c12.N#CC(C#N)=N[N-:21]c1c(Cl)cccc1Cl 10=20;20,21=21",
"Cc1cc([N+](=O)[O-])cc(C)c1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Cc1cc([N+](=O)[O-])cc(C)c1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"N#CCC(c1ccccc1)[NH2:10].O=C([O-])c1c2cccc1COCCOCc1[nH]c(c[n+:21]1[H:20])COCCOC2>>N#CCC(c1ccccc1)[NH2+:10][H:20].O=C([O-])c1c2cccc1COCCOCc1[nH]c(c[n:21]1)COCCOC2 10=20;20,21=21",
"Cc1ccc([N:10]2CCCC(=O)C(O)CCC2)cc1.O=C([O-])c1cccc2cc3ccccc3[n+:21]([H:20])c12>>Cc1ccc([N+:10]2([H:20])CCCC(=O)C(O)CCC2)cc1.O=C([O-])c1cccc2cc3ccccc3[n:21]c12 10=20;20,21=21",
"O=C1CCCC(=O)[N-:10]1.OC(CN1CCCC1)C[N+:21]1([H:20])CCCC1>>O=C1CCCC(=O)[N:10]1[H:20].OC(CN1CCCC1)C[N:21]1CCCC1 10=20;20,21=21",
"C1N2C[NH+]3CN1C[N+:21]([H:20])(C2)C3.CC(=O)C(=N[O-:10])C(C)=O>>C1N2C[NH+]3CN1C[N:21](C2)C3.CC(=O)C(=N[O:10][H:20])C(C)=O 10=20;20,21=21",
"C=CC(=O)NC(C)(C)CC[N:10](C)C.C=CC(C)[NH+:21](c1ccccc1)[H:20]>>C=CC(=O)NC(C)(C)CC[N+:10](C)(C)[H:20].C=CC(C)[NH:21]c1ccccc1 10=20;20,21=21",
"CC(O)C[N:10](C)CC(C)O.C[N+:21](C)(c1ccc(/N=N/c2ccncc2)cc1)[H:20]>>CC(O)C[N+:10](C)(CC(C)O)[H:20].C[N:21](C)c1ccc(/N=N/c2ccncc2)cc1 10=20;20,21=21",
"CC(C)(C)[NH+:21](c1ccccc1)[H:20].[NH3+]C(Cc1c[nH+]c[nH]1)C(=O)[O-:10]>>CC(C)(C)[NH:21]c1ccccc1.[NH3+]C(Cc1c[nH+]c[nH]1)C(=O)[O:10][H:20] 10=20;20,21=21",
"C=CCC(C)(C[N:10](CC)CC)OC(=O)CC(C)C.CC1(C(=O)[O:21][H:20])CCCCC1>>C=CCC(C)(C[N+:10](CC)(CC)[H:20])OC(=O)CC(C)C.CC1(C(=O)[O-:21])CCCCC1 10=20;20,21=21",
"CCCNCC[NH:10]CCC.[H][C:21](C(C)=O)(C(C)=O)[H:20]>>CCCNCC[NH+:10](CCC)[H:20].[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"C[N+:21](C)(C(O)O)[H:20].C[N:10](C)CCCCCCNC(=O)/C=N/[O-]>>C[N+:10](C)(CCCCCCNC(=O)/C=N/[O-])[H:20].C[N:21](C)C(O)O 10=20;20,21=21",
"CC(C)(O[O:21][H:20])c1ccccc1.Cc1cc(O)c(C(C)C)cc1Nc1ccc([O-:10])cc1>>CC(C)(O[O-:21])c1ccccc1.Cc1cc(O)c(C(C)C)cc1Nc1ccc([O:10][H:20])cc1 10=20;20,21=21",
"Cc1c[nH]c(C)[n:10]1.c1cc(-c2nc3ccccc3s2)cc([NH2+:21][H:20])c1>>Cc1c[nH]c(C)[n+:10]1[H:20].c1cc(-c2nc3ccccc3s2)cc([NH2:21])c1 10=20;20,21=21",
"Cc1ccc(N)cc1C[NH2+:21][H:20].Oc1ccc([O-:10])c2cccnc12>>Cc1ccc(N)cc1C[NH2:21].Oc1ccc([O:10][H:20])c2cccnc12 10=20;20,21=21",
"CC1CC[NH:10]CC1.C[N+:21](C)(CC(CSCc1ccccc1)SCc1ccccc1)[H:20]>>CC1CC[NH+:10]([H:20])CC1.C[N:21](C)CC(CSCc1ccccc1)SCc1ccccc1 10=20;20,21=21",
"CC(C)[O-:10].C[N+]1=CC=C(C(=O)[CH:21](C2=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C2)[H:20])C=C1>>CC(C)[O:10][H:20].C[N+]1=CC=C(C(=O)[CH-:21]C2=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C2)C=C1 10=20;20,21=21",
"N[C@H]1C[C@@H]1[NH2:10].O=S(=O)(c1ccccc1)[NH:21][H:20]>>N[C@H]1C[C@@H]1[NH2+:10][H:20].O=S(=O)(c1ccccc1)[NH-:21] 10=20;20,21=21",
"Cc1ncsc1C(=O)[O-:10].OCC[N+:21](CCO)(CCc1nnn[nH]1)[H:20]>>Cc1ncsc1C(=O)[O:10][H:20].OCC[N:21](CCO)CCc1nnn[nH]1 10=20;20,21=21",
"O=C([O-])[C@@H]1C[C@@H](O)C[NH:10]1.[H][C:21](C(C)=O)(C(C)=O)[H:20]>>O=C([O-])[C@@H]1C[C@@H](O)C[NH+:10]1[H:20].[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"CC1=C(CC(C)[NH:10]CC(O)c2ccc(F)cc2)CCC1(C)C.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>CC1=C(CC(C)[NH+:10](CC(O)c2ccc(F)cc2)[H:20])CCC1(C)C.O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"O=C([O-])[C@H](NCC[NH2+][C@@H](C(=O)[O-])c1ccccc1[O-])c1ccccc1[O-:10].O=C(c1ccc(/N=C/c2ccccc2)cc1)[O:21][H:20]>>O=C([O-])[C@H](NCC[NH2+][C@@H](C(=O)[O-])c1ccccc1[O-])c1ccccc1[O:10][H:20].O=C(c1ccc(/N=C/c2ccccc2)cc1)[O-:21] 10=20;20,21=21",
"CC1CCCC(C(=O)[O-])[NH:10]1.C[N+]1=CC=C([CH:21](S(=O)(=O)C2=CC=CC=C2)[H:20])C=C1>>CC1CCCC(C(=O)[O-])[NH+:10]1[H:20].C[N+]1=CC=C([CH-:21]S(=O)(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"C#CC(C)(C)[N:10](CC)C(C)(C)C.CSc1ccc([O:21][H:20])cc1>>C#CC(C)(C)[N+:10](CC)(C(C)(C)C)[H:20].CSc1ccc([O-:21])cc1 10=20;20,21=21",
"Cc1cc(-c2ccccc2)nn2cc(C)[n:10]c12.[S-]c1cccc[n+:21]1[H:20]>>Cc1cc(-c2ccccc2)nn2cc(C)[n+:10]([H:20])c12.[S-]c1cccc[n:21]1 10=20;20,21=21",
"C1CC[NH:10]CC1.O=[N+]([O-])[CH:21](SC1=CC=CC=C1)[H:20]>>C1CC[NH+:10]([H:20])CC1.O=[N+]([O-])[CH-:21]SC1=CC=CC=C1 10=20;20,21=21",
"C=CC(OCC(C)O)[O:21][H:20].CC[N:10](CC)CCCCCCNc1c2ccc(Cl)cc2nc2ccc(OC)cc12>>C=CC(OCC(C)O)[O-:21].CC[N+:10](CC)(CCCCCCNc1c2ccc(Cl)cc2nc2ccc(OC)cc12)[H:20] 10=20;20,21=21",
